US07696352B2
A mixture of 1-(4-iodophenyl)-4-methyl-1H-pyrazole (1.70 g, 5.99 mmol), NBS (1.38 g, 7.75 mmol) and AIBN (0.30 g, 1.83 mmol) in CCl4 (25 mL) was heated at reflux for 1 hr. After being cooled to room temperature, the upper clear solution was decanted out and concentrated in vacuo. The residue was dissolved in DMF (10 mL), NaN3 (0.934 g, 14.3 mmol) was added. The mixture was stirred at room temperature overnight. H2O and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo. The residue was purified by a silica gel column, eluted with hexane, then with 5% EtOAc in hexane to give 4-(azidomethyl)-1-(4-iodophenyl)-1H-pyrazole (0.70 g).

reactant | 1-(4-iodophenyl)-4-methyl-1H-pyrazole | 5.99 mmol, 1.70 g | IC1=CC=C(C=C1)N1N=CC(=C1)C | C10H9IN2
reactant | NBS | 7.75 mmol, 1.38 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 1.83 mmol, 0.30 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | NaN3 | 14.3 mmol, 0.934 g | [N-]=[N+]=[N-].[Na+]
solvent | CCl4 | 25 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 4-(azidomethyl)-1-(4-iodophenyl)-1H-pyrazole | 0.70 g | N(=[N+]=[N-])CC=1C=NN(C1)C1=CC=C(C=C1)I | C10H8IN5
